US07608639B2
3-{2-Methyl-4-[3-methyl-5-(3-phenoxy-5-trifluoromethyl-pyridin-2-yloxy)-phenoxy]-phenyl}-propionic acid
The title compound is prepared according to Example 8 by using 3-phenoxy-5-trifluoromethyl-pyridin-2-ol and 3-[4-(3-bromo-5-methyl-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester to afford 32 mg (6%). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calcd for C29H24O5NF3 523, found 524 (M+1, 100%).

reactant | 3-phenoxy-5-trifluoromethyl-pyridin-2-ol | O(C1=CC=CC=C1)C=1C(=NC=C(C1)C(F)(F)F)O | C12H8F3NO2
reactant | 3-[4-(3-bromo-5-methyl-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)C)Br)C)=O | C18H19BrO3
product | 3-{2-Methyl-4-[3-methyl-5-(3-phenoxy-5-trifluoromethyl-pyridin-2-yloxy)-phenoxy]-phenyl}-propionic acid | CC1=C(C=CC(=C1)OC1=CC(=CC(=C1)OC1=NC=C(C=C1OC1=CC=CC=C1)C(F)(F)F)C)CCC(=O)O | C29H24F3NO5
